US04652573
B. 3-phthalimidopropyl acetoacetate
A solution of 22.8 g (0.111 mol) of N-3-hydroxypropyl phthalimide and 14.46 g (0.111 mol) of ethyl acetoacetate was heated at 145°-150° C. for 12 hours. Ethanol was removed with nitrogen flow during the course of the reaction. The mixture was cooled to room temperature, dissolved in dichloromethane, and washed with brine. The separated organic phase was dried over magnesium sulfate, concentrated in vacuo, and distilled at 211°-219° C. (0.125 mm Hg) to yield 17.3 g (54%) of a white solid; m.p. 67°-71° C. NMR: (CDCl3) δ2.0 (2H,m), 2.2 (3H,s), 3.3 (2H,s), 3.7 (2H,t), 4.05 (2M,t), 7.62 (4H,d).

reactant | N-3-hydroxypropyl phthalimide | 0.111 mol, 22.8 g | OCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H11NO3
reactant | ethyl acetoacetate | 0.111 mol, 14.46 g | C(CC(=O)C)(=O)OCC | C6H10O3
product | 3-phthalimidopropyl acetoacetate | 17.3 g, 54% | C(CC(=O)C)(=O)OCCCN1C(C=2C(C1=O)=CC=CC2)=O | C15H15NO5
